US04369186
654 g (3 mol) of 4,5-dichloro-2-dichloromethylene-imidazole in a finely powdered form were added incrementally in the course of about one hour, to a mixture, which had been initially introduced, of 783 g (9 mol) of isopropyl-formamide, 162 g (9 mol) of water and 3 l of acetonitrile, while stirring and while cooling to about 0° C. The clear solution was then poured into about 15 kg of ice water. The white precipitate which had formed was filtered off, washed with water and dried. In this way, 630 g (84% of theory) of 4,5-dichloro-imidazole-2-carboxylic acid N-formyl-isopropylamide with a melting point of 142° C. were obtained. The same result was also achieved without the addition of water.

reactant | 4,5-dichloro-2-dichloromethylene-imidazole | 3 mol, 654 g | ClC1=NC(N=C1Cl)=C(Cl)Cl | C4Cl4N2
reactant | isopropyl-formamide | 9 mol, 783 g | C(C)(C)NC=O | C4H9NO
reactant | water | 9 mol, 162 g | O | H2O
solvent | acetonitrile | 3 l | C(C)#N | C2H3N
product | 4,5-dichloro-imidazole-2-carboxylic acid N-formyl-isopropylamide | 630 g, 84% | C(=O)N(C(=O)C=1NC(=C(N1)Cl)Cl)C(C)C | C8H9Cl2N3O2
